US07812014B2
Step 3: 5,6-Dihydro-4H-pyrrolo[1,2-b]pyrazole-2-carbaldehyde
MnO2 (activated) (24.4 g) was added to the CHCl3 (350 mL) solution of (5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-2-yl)methanol (4.87 g) and refluxed for 1 h under a nitrogen atmosphere. The reaction mixture was filtered through a pad of Celite. The filtrate was reduced under reduced pressure. The residue was applied to silica gel column chromatography, then the column was eluted with n-hexane-AcOEt (1/1-1/2). The title compound was obtained as yellow oil (4.35 g, 91%).

reactant | (5,6-dihydro-4H-pyrrolo[1,2-b]pyrazol-2-yl)methanol | 4.87 g | N=1N2C(=CC1CO)CCC2 | C7H10N2O
catalyst | MnO2 | 24.4 g | O=[Mn]=O
solvent | CHCl3 | 350 mL | C(Cl)(Cl)Cl | CHCl3
product | 5,6-Dihydro-4H-pyrrolo[1,2-b]pyrazole-2-carbaldehyde | N=1N2C(=CC1C=O)CCC2 | C7H8N2O
